*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7S(-55to125[deg])/1.00e+00[uF]/10[V]
* Murata P/N :GCM155C71A105KE39
* Property : C = 1.00e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155C71A105KE39 Port1 Port2
C01 Port1 N01 7.81e-07
R01 Port1 N01 5.00e+07
L02 N01 N02 1.58e-10
R03 N02 N03 1.57e-02
C04 N03 N04 4.67e-05
R04 N03 N04 3.17e+01
C05 N04 N05 3.78e-05
R05 N04 N05 5.25e+00
C06 N05 N06 3.69e-05
R06 N05 N06 6.89e-01
C07 N06 N07 4.12e-05
R07 N06 N07 9.89e-02
C08 N07 N08 2.63e-05
R08 N07 N08 3.72e-02
C09 N08 N09 2.00e-05
R09 N08 N09 6.88e-03
L10 N09 N10 2.23e-11
R10 N09 N10 3.12e-02
L11 N10 N11 1.18e-10
R11 N10 N11 3.07e-02
C12 N11 N12 2.81e-06
L12 N11 N12 2.55e-11
R12 N11 N12 3.91e-03
C13 N12 N13 1.58e-06
L13 N12 N13 2.35e-11
R13 N12 N13 4.76e-03
C14 N13 N14 1.63e-10
L14 N13 N14 3.28e-11
R14 N13 N14 2.06e-01
C15 N14 Port2 3.06e-12
L15 N14 Port2 7.01e-11
R15 N14 Port2 1.14e+01
.ENDS GCM155C71A105KE39
